US08686152B2
To a solution of 4-biphenyl-4-ylmethyl-1-[2-(S)-tert-butoxycarbonylamino-3-thiophen-2-yl-propionyl]-piperidine-4-carboxylic acid (0.24 mmol; 0.13 g) in DMF (5 mL) was added C-(tetrahydro-pyran-4-yl)-methylamine (0.28 mmol; 0.027 g), N,N-diisopropyl-N-ethylamine (0.48 mmol; 0.084 mL) and HBTU (0.28 mmol; 0.108 g), and the resulting mixture was stirred at room temperature overnight. The resulting mixture was then purified via reverse phase HPLC and the desired fractions were combined and lyophilized. The resulting residue was dissolved in THF (5 mL) and a 4N HCl solution in 1,4-dioxane (15 mL) was added. The resulting solution was stirred for 7 hours at room temperature and evaporated. The residue was triturated with diethyl ether and dried under vacuum to yield 1-[2-(S)-amino-3-thiophen-2-yl-propionyl]-4-biphenyl-4-ylmethyl-piperidine-4-carboxylic acid(tetrahydro-pyran-4-ylmethyl)-amide as a hydrochloride salt.

reactant | 4-biphenyl-4-ylmethyl-1-[2-(S)-tert-butoxycarbonylamino-3-thiophen-2-yl-propionyl]-piperidine-4-carboxylic acid | 0.24 mmol, 0.13 g | C1(=CC=C(C=C1)CC1(CCN(CC1)C([C@H](CC=1SC=CC1)NC(=O)OC(C)(C)C)=O)C(=O)O)C1=CC=CC=C1 | C31H36N2O5S
reactant | C-(tetrahydro-pyran-4-yl)-methylamine | 0.28 mmol, 0.027 g | O1CCC(CC1)CN | C6H13NO
reactant | N,N-diisopropyl-N-ethylamine | 0.48 mmol, 0.084 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 0.28 mmol, 0.108 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-[2-(S)-amino-3-thiophen-2-yl-propionyl]-4-biphenyl-4-ylmethyl-piperidine-4-carboxylic acid(tetrahydro-pyran-4-ylmethyl)-amide | O1CCC(CC1)CNC(=O)C1(CCN(CC1)C([C@H](CC=1SC=CC1)N)=O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C32H39N3O3S
